US07723347B2
3-Fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]aniline
270 mg (0.62 mmol) of 6-chloro-4-(2-fluoro-4-nitrobenzyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine are dissolved in 2 ml of ethanol. 170 μl (1.24 mmol) of triethylamine and 50 mg of 10% palladium-on-carbon are added. The mixture is hydrogenated at RT and a hydrogen pressure of 1.5 bar for 20 h. The mixture is filtered and concentrated, ethyl acetate is added and the mixture is washed with 1N aqueous sodium hydroxide solution. The organic phase is dried over sodium sulfate and concentrated. The product is reacted further without purification.

reactant | 6-chloro-4-(2-fluoro-4-nitrobenzyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 0.62 mmol, 270 mg | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)CC2=C(C=C(C=C2)[N+](=O)[O-])F | C20H23ClFN3O3Si
reactant | triethylamine | 1.24 mmol, 170 μl | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
product | 3-Fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]aniline | FC=1C=C(N)C=CC1CC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C20H26FN3OSi
